US04788206
As in Example 115, (E)-5,5-bis (3,4-dimethoxyphenyl)-2,4-pentadienoic acid (16 g) and 4-nitrophenol (6.6 g) in dichloromethane (160 mL) was treated with 1,3-dicyclohexylcarbodiimide (9.3 g). The mixture was stirred at 0.5° C. for 1 hour, then at room temperature for 18 hours. After the usual work up, the crude product was triturated with ether to give 13.2 g of (E)-5,5-bis (3,4-dimethoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester. Crystallization of a portion from ether afforded the analytical sample, mp 140°-142° C.

reactant | (E)-5,5-bis (3,4-dimethoxyphenyl)-2,4-pentadienoic acid | 16 g | COC=1C=C(C=CC1OC)C(=C/C=C/C(=O)O)C1=CC(=C(C=C1)OC)OC | C21H22O6
reactant | 4-nitrophenol | 6.6 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 9.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | (E)-5,5-bis (3,4-dimethoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 13.2 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC(=C(C=C1)OC)OC)C1=CC(=C(C=C1)OC)OC)=O | C27H25NO8
